US04673746
A mixture of 10.0 g of ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate, 100 ml of 10% sodium hydroxide, and 350 ml of ethyl alcohol is refluxed for 3.5 hours. Thereafter, the ethyl alcohol is removed under vacuum and the residue is acidified with a 5% hydrochloric acid solution effecting a solid precipitate. The precipitate is collected by filtration and dried. The dried product is recrystallized from 95% ethyl alcohol to yield the product {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid having a melting point of 190° to 191° C.

reactant | ethyl{[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetate | 10.0 g | C(C)OC(COC1=C(C2=C(C(=NO2)C2=C(C=CC=C2)F)C=C1)Cl)=O | C17H13ClFNO4
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | ethyl alcohol | 350 ml | C(C)O | C2H6O
product | {[7-chloro-3-(2-fluorophenyl)-1,2-benzisoxazol-6-yl]oxy}acetic acid | ClC1=C(C=CC=2C(=NOC21)C2=C(C=CC=C2)F)OCC(=O)O | C15H9ClFNO4
